US04474899
A mixture of 47.4 g 3-methoxytetrafluoropropionic acid and 67.3 g phosphorous pentachloride was heated and the contents distilled to obtain a pale yellow liquid boiling to 102°. Redistillation of this liquid yielded 49.8 g (95.2%) 3-methoxytetrafluoropropionyl chloride, b.p. 84°-86°.

reactant | 3-methoxytetrafluoropropionic acid | 47.4 g | COC(C(C(=O)O)(F)F)(F)F | C4H4F4O3
reactant | phosphorous pentachloride | 67.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 3-methoxytetrafluoropropionyl chloride | 49.8 g, 95.2% | COC(C(C(=O)Cl)(F)F)(F)F | C4H3ClF4O2
